### PR TITLE
Update Infoflow and CapDL proofs for explicit fpu changes

### PR DESCRIPTION
**Pull request by ryybrr**
Fix breakages up the proof stack for ARM and RISCV64

Test with https://github.com/seL4/seL4/pull/1325

### CODE REVIEW

File: proof/infoflow/ARM/ArchIRQMasks_IF.thy [hunk 1]
```diff
@@ -155,6 +155,9 @@ lemma invoke_tcb_irq_masks[IRQMasks_IF_assms]:
     apply (simp add: option_update_thread_def | wp hoare_weak_lift_imp hoare_vcg_all_lift | wpc)+
   by fastforce+
 
+crunch arch_prepare_set_domain
+  for inv[IRQMasks_IF_assms,wp]: P
```
Comment (corlewis) [inline proof/infoflow/ARM/ArchIRQMasks_IF.thy:159]: It looks like this is proved both here and in ArchFinalCaps. I'm not sure what the imports look like and they might make it hard, but it would be nice not to introduce more duplication.

File: proof/infoflow/Tcb_IF.thy [hunk 2]
```diff
@@ -470,6 +477,18 @@ lemmas reschedule_required_reads_respects_f =
 
 context Tcb_IF_2 begin
 
+lemma thread_set_tcb_flags_update_silc_inv[wp]:
+  "\<lbrace>silc_inv aag st\<rbrace>
+   thread_set (tcb_flags_update f) t
+   \<lbrace>\<lambda>_. silc_inv aag st\<rbrace>"
```
Comment (corlewis) [inline proof/infoflow/Tcb_IF.thy:483]: I assume this is copied but might as well use invariant notation here.

File: proof/drefine/Arch_DR.thy [hunk 3]
```diff
@@ -761,13 +761,13 @@ next
                           get_index_def transform_cap_list_def
                           dc_def[symmetric]
                    split: cap.split arch_cap.split option.split)
-              (* 45 subgoals, most are irrelevant invocations *)
+              (* 46 subgoals, most are irrelevant invocations *)
```
Comment (corlewis) [inline proof/drefine/Arch_DR.thy:764]: Thanks for updating the comment, these ugly proofs are a pain to update even with them, they're a nightmare without or if they get out of date.

File: proof/drefine/Tcb_DR.thy [hunk 4]
```diff
@@ -924,27 +933,6 @@ lemma dcorres_tcb_empty_slot:
   apply (clarsimp simp:cte_wp_at_caps_of_state)
   done
 
-lemma dcorres_idempotent_as_user_strong:
-  assumes prem: "\<And>tcb ms ref P.
-                 \<lbrace> \<lambda>cxt. P (transform_tcb ms ref (tcb\<lparr>tcb_arch:=arch_tcb_context_set cxt (tcb_arch tcb)\<rparr>))\<rbrace>
-                 x
-                 \<lbrace> \<lambda>_ cxt. P (transform_tcb ms ref (tcb\<lparr>tcb_arch:=arch_tcb_context_set cxt (tcb_arch tcb)\<rparr>))\<rbrace>"
-  shows "dcorres dc \<top> (tcb_at u) (return q) (as_user u x)"
```
Comment (corlewis) [inline proof/drefine/Tcb_DR.thy:932]: Out of curiosity, why can this now be removed? Was it not being used?

File: proof/drefine/Tcb_DR.thy [hunk 5]
```diff
@@ -1728,6 +1716,40 @@ lemma invoke_tcb_corres_setTLSBase:
           apply wpsimp+
   done
 
+lemma dcorres_corrupt_tcb_intent_flags_upd:
+  "dcorres dc \<top> (tcb_at y and valid_idle and not_idle_thread y)
+    (corrupt_tcb_intent  y)
```
Comment (corlewis) [inline proof/drefine/Tcb_DR.thy:1721]:
```suggestion
    (corrupt_tcb_intent y)
```

**Review by corlewis — APPROVED** [review]
Looks good and thanks for doing this!

**Review by lsf37 — APPROVED** [review]
Looks good from my side! Corey has already caught everything I was going to comment on :-)

**Comment by lsf37** [comment]
Are we expecting DPolicy to pass in this one? There were changes in that file, IIRC.

**Comment by ryybrr** [comment]
> Are we expecting DPolicy to pass in this one? There were changes in that file, IIRC.

Think it only works after my access changes, will remove here

File: proof/infoflow/ARM/ArchIRQMasks_IF.thy (hunk 1 above)
Comment (ryybrr) [reply proof/infoflow/ARM/ArchIRQMasks_IF.thy:159]: There wasn't a simple common ancestor. I'll have another look.

File: proof/drefine/Tcb_DR.thy (hunk 4 above)
Comment (ryybrr) [reply proof/drefine/Tcb_DR.thy:932]: Yep, not used at all

File: proof/infoflow/ARM/ArchIRQMasks_IF.thy (hunk 1 above)
Comment (ryybrr) [reply proof/infoflow/ARM/ArchIRQMasks_IF.thy:159]: `IRQMasks_IF` imports `Access.ArchDomainSepInv` and is used after `FinalCaps`. I could change dependencies, but maybe not ideal?

File: proof/drefine/Tcb_DR.thy (hunk 5 above)
Comment (ryybrr) [reply proof/drefine/Tcb_DR.thy:1721]: Thanks. Copied from `dcorres_corrupt_tcb_intent_ipcbuffer_upd` so will fix there too

**Review by Xaphiosis — APPROVED** [review]
Nothing new from me
